US05643932
2.05 g of 2-(4-ethoxycarbonylphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole was suspended in 20 ml of a 10% aqueous potassium hydroxide solution and 50 ml of ethanol. The suspension was refluxed for 5 hours. Ethanol was removed by distillation. After cooling, the residue was mixed with hydrochloric acid to make it acidic (pH 1). The resulting crystals were collected by filtration and recrystallized from dimethylformamide to obtain 0.70 g of 2-(4-carboxyphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole as a light yellow powder.

reactant | 2-(4-ethoxycarbonylphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole | 2.05 g | C(C)OC(=O)C1=CC=C(C=C1)C=1SC=C(N1)C=1C=C2CCC(NC2=CC1)=O | C21H18N2O3S
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-carboxyphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole | 0.70 g | C(=O)(O)C1=CC=C(C=C1)C=1SC=C(N1)C=1C=C2CCC(NC2=CC1)=O | C19H14N2O3S
